US09260436B2
A mixture of 1.14 g of 3-bromo-1,1,1-trifluoropropan-2-one and 10 ml of DME was added to a mixture of 1.04 g of 2-amino-4-bromopyrimidine and 10 ml of DME, and the mixture was stirred at room temperature for 1 day. The precipitated solid was taken by filtration, washed with 10 ml of DME, and dried to obtain 1.92 g of 7-bromo-2-trifluoromethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide.

reactant | 3-bromo-1,1,1-trifluoropropan-2-one | 1.14 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | 2-amino-4-bromopyrimidine | 1.04 g | NC1=NC=CC(=N1)Br | C4H4BrN3
reactant | DME | 10 ml | COCCOC | C4H10O2
reactant | DME | 10 ml | COCCOC | C4H10O2
product | 7-bromo-2-trifluoromethyl-2,3-dihydroimidazo[1,2-a]pyridin-2-ol hydrobromide | 1.92 g | Br.BrC1=CC=2N(C=C1)CC(N2)(O)C(F)(F)F | InChI=1S/C8H6BrF3N2O.BrH/c9-5-1-2-14-4-7(15,8(10,11)12)13-6(14)3-5;/h1-3,15H,4H2;1H
